US04065617
B. 3,3a,4,5,6,7-Hexahydro-5-methyl-3-phenyl-7-(phenylmethylene)-2-(2,2,2-trifluoroethyl)-2H-pyrazolo[4,3-c]pyridine, hydrochloride (1:2)
A stirred suspension of 12.5 g of 3,5-dibenzylidene-1-methyl-4-piperidone, hydrochloride in 225 ml of methanol is treated with 6.9 g of 70% aqueous 2,2,2-trifluoroethylhydrazine, heated, and the resulting solution refluxed for four hours. The solvent is removed on a rotary evaporator and the light yellow foamy residue (18 g) is dissolved in 90 ml of acetonitrile and treated with 7.5 ml of 5.1 N alcoholic hydrogen chloride; the solid salt rapidly separates after a few seconds. Following cooling for about 16 hours, the material is filtered under nitrogen, washed with cold acetonitrile and ether, and dried in vacuo yielding 9.7 g of material, melting point 185°-187° C (foaming); sintering at 181° C. Crystallization from 50 ml of methanol and 50 ml of ether yields 7.9 g of product, melting point 185°-187° C (foaming).

reactant | 3,5-dibenzylidene-1-methyl-4-piperidone, hydrochloride | 12.5 g | Cl.C(C1=CC=CC=C1)=C1CN(CC(C1=O)=CC1=CC=CC=C1)C
reactant | 2,2,2-trifluoroethylhydrazine | 6.9 g | FC(CNN)(F)F | C2H5F3N2
solvent | methanol | 225 ml | CO | CH4O
product | 3,3a,4,5,6,7-Hexahydro-5-methyl-3-phenyl-7-(phenylmethylene)-2-(2,2,2-trifluoroethyl)-2H-pyrazolo[4,3-c]pyridine, hydrochloride | 9.7 g | Cl.CN1CC2C(C(C1)=CC1=CC=CC=C1)=NN(C2C2=CC=CC=C2)CC(F)(F)F | InChI=1S/C22H22F3N3.ClH/c1-27-13-18(12-16-8-4-2-5-9-16)20-19(14-27)21(17-10-6-3-7-11-17)28(26-20)15-22(23,24)25;/h2-12,19,21H,13-15H2,1H3;1H
